US03937833
A mixture of 28.0 g (0.072 mole) of 2,8-bis(4-chlorobutyryl)dibenzothiophene, 49.4 g (0.58 mole) of piperidine and 2.0 g of potassium iodide in 200 ml of tetrahydrofuran is heated at 125°C with stirring for 24 hours in a Parr general purpose bomb. The reaction mixture is cooled, filtered, and the filtrate is evaporated in vacuo leaving a residue which is washed with water and recrystallized twice from acetone to give 2,8-bis(4-piperidinobutyryl)dibenzothiophene, M.P. 93°-95°C.

reactant | 2,8-bis(4-chlorobutyryl)dibenzothiophene | 0.072 mole, 28.0 g | ClCCCC(=O)C1=CC2=C(SC3=C2C=C(C=C3)C(CCCCl)=O)C=C1 | C20H18Cl2O2S
reactant | piperidine | 0.58 mole, 49.4 g | N1CCCCC1 | C5H11N
reactant | potassium iodide | 2.0 g | [I-].[K+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2,8-bis(4-piperidinobutyryl)dibenzothiophene | N1(CCCCC1)CCCC(=O)C1=CC2=C(SC3=C2C=C(C=C3)C(CCCN3CCCCC3)=O)C=C1 | C30H38N2O2S
